US03953596
A mixture of 10 grams of salicylic acid, 7 ml of thionyl chloride and 0.02 grams of aluminum chloride were heated at 40°-45° C. for 1.5 hours. The excess thionyl chloride was removed in vacuum and salicylyl chloride was obtained.

reactant | salicylic acid | 10 grams | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 0.02 grams | [Cl-].[Al+3].[Cl-].[Cl-]
product | salicylyl chloride | C(C=1C(O)=CC=CC1)(Cl)Cl | C7H6Cl2O
